US04758585
A solution of cis-decahydro-2-oxo-1H-cycloocta[b]pyrrole-1-acetic acid ethyl ester (4.0 g, 0.0157 mole) in methanol (30 ml) is saturated with anhydrous ammonia. The solution is stirred 18 hours. The solution is concentrated at reduced pressure to yield a solid. Trituration with anhydrous diethyl ether yields pure cis-decahydro-2-oxo-1H-cycloocta[b]pyrrole-1-acetamide with mp 110°-112° C.

reactant | cis-decahydro-2-oxo-1H-cycloocta[b]pyrrole-1-acetic acid ethyl ester | 0.0157 mole, 4.0 g | C(C)OC(CN1[C@@H]2[C@H](CC1=O)CCCCCC2)=O | C14H23NO3
reactant | ammonia | N | H3N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 30 ml | CO | CH4O
product | cis-decahydro-2-oxo-1H-cycloocta[b]pyrrole-1-acetamide | O=C1C[C@H]2[C@@H](N1CC(=O)N)CCCCCC2 | C12H20N2O2
